US05262420
Preparation of 2-methyl-2-(4-pyridyl)-5-phenylhexane
In a flask, 0.61 g (18 mmol) of lithium aluminum hydride and 50 ml of dried tetrahydrofuran were placed. While cooling with ice-cold water under a nitrogen atmosphere, a solution of 10.0 g (82.6 mmol) of 4-isopropylpyridine dissolved in tetrahydrofuran was added dropwise. After stirring for 24 hours at room temperature, a solution of 3.41 g (16.0 mmol) of 4-phenylbutyl bromide dissolved in tetrahydrofuran was added. The resulting mixture was stirred for 2 hours. Subsequently, water was added, tetrahydrofuran was distilled away under reduced pressure, and then the residue was extracted with ethyl acetate. After the extract was dried over anhydrous sodium sulfate, ethyl acetate was distilled away under reduced pressure. The resulting oily substance was purified by silica gel column chromatography, to obtain 0.21 g (yield: 5.2%) of the desired compound.

reactant | lithium aluminum hydride | 18 mmol, 0.61 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-isopropylpyridine | 82.6 mmol, 10.0 g | C(C)(C)C1=CC=NC=C1 | C8H11N
reactant | 4-phenylbutyl bromide | 16.0 mmol, 3.41 g | C1(=CC=CC=C1)CCCCBr | C10H13Br
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methyl-2-(4-pyridyl)-5-phenylhexane | 0.21 g, yield: 5.2% | CC(C)(CCC(C)C1=CC=CC=C1)C1=CC=NC=C1 | C18H23N
